US07534788B2
Step 1: 3-Chloro-4-methoxy-phenol
3-Chloro-4-methoxybenzaldehyde (2.50 g, 15.0 mmol) was dissolved in 30 mL of CH2Cl2, treated with 3-chloro-perbenzoic acid (4.84 g, 70%, 1.4 eq.), and then kept for 3.5 h at ambient temperature. Pouring onto crashed ice/pyrosulfite-solution, twofold extraction with AcOEt, washing with Na2CO3-solution, drying over sodium sulfate, and evaporation of the solvents left 2.89 g of the intermediate formiate which was hydrolysed by stirring for 20 Min. in 25 mL of MeOH containing 2.113 g of K2CO3. Standard extractive work-up delivered then 2.60 g of the title compound sufficiently pure for the next step.

reactant | 3-Chloro-4-methoxybenzaldehyde | 15.0 mmol, 2.50 g | ClC=1C=C(C=O)C=CC1OC | C8H7ClO2
reactant | 3-chloro-perbenzoic acid | 4.84 g, 1.4 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-4-methoxy-phenol | ClC=1C=C(C=CC1OC)O | C7H7ClO2
